data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_621047_1,[C:1]([O:6]/[C:4]([N:2](/[C:5]([C:3]([O:7][H:11])=[O:10])=[N:9]/[H:14])[H:12])=[N:8]\[H:13])([H:15])([H:16])[H:17]>>[C:1]([O:6][C:3]1([O:7][H:11])/[C:5](=[N:9]\[H:14])[N:2]([H:12])/[C:4](=[N:8]/[H:13])[O:10]1)([H:15])([H:16])[H:17],71.14218500001357
MR_564962_0,[C:1]([N:3]([N:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[O:6][H:7])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:2]([N:4]([H:8])[H:9])[O:6][H:7])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],70.27623500002406
MR_483815_0,[C:1]([O:3][O:2][O:5][H:8])([O:4][O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([O:2][O:5][H:8])([O:3][O:4][O:6][H:9])([O:7][H:10])[H:11],45.91542999999973
MR_425266_0,[C@@:1]([C@@:2]([C:5]([H:22])([H:23])[H:24])([N:8]([H:14])[H:15])[H:11])([C:4]([H:19])([H:20])[H:21])([N:6]([N:7]([H:12])[H:13])[O:9][C:3]([H:16])([H:17])[H:18])[H:10]>>[C@:1]([C:4]([H:19])([H:20])[H:21])([N:6]([C@@:2]([C:5]([H:22])([H:23])[H:24])([N:8]([H:14])[H:15])[H:11])[N:7]([H:12])[H:13])([O:9][C:3]([H:16])([H:17])[H:18])[H:10],56.93495749996444
MR_174158_1,[C:1]([c:5]1[c:4]([N:6]([H:10])[H:11])[n:2]([H:9])[c:3](=[O:8])[o:7]1)([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:4]1([N:6]([H:10])[H:11])[N:2]([H:9])[C:3]1=[O:8])=[O:7])([H:12])([H:13])[H:14],57.26313999995625
MR_271922_2,[C:1](/[C:2]([N:5][N:6][N:3]([H:9])[H:10])=[N:7]/[H:13])([N:4]([H:11])[H:12])=[O:8]>>[C:1]([N:4]([H:11])[H:12])([N:6]([N:3]([H:9])[H:10])[N:5][C:2][N:7][H:13])=[O:8],72.25787999997891
MR_49491_1,[C:1]([C:5]([C:6]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])[C:4](=[O:7])[O:8][H:10])=[O:9])([H:11])([H:12])[H:13]>>[C:1]([C:5]([O:7][C:4](=[C:6]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[O:8][H:10])=[O:9])([H:11])([H:12])[H:13],57.457037500037416
MR_209185_0,[C:1](/[N:2]=[C:3]([C:4](=[N:8]/[H:10])\[H:11])/[N:7]([C:5](=[C:6]([H:16])[H:17])[H:12])[H:9])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:3](/[C:4](=[N:8]\[H:10])[H:11])=[N:7]/[H:9])[C:5](=[C:6]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15],59.32196750000159
MR_95446_0,[C:1]([C:3]1([H:9])[C:2]([C:4](=[O:7])[H:10])([O:6][H:8])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3](/[C:2](=[C:4](\[O:7][H:9])[H:10])[O:6][H:8])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13],69.0965350000063
MR_197439_1,[C:1](/[C:5](=[C:3](/[N:2]([C:4](=[O:7])[H:10])[H:9])[O:6][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5](/[C:3](=[N:2]\[H:9])[O:6][H:8])([C:4](=[O:7])[H:10])[H:11])([H:12])([H:13])[H:14],60.507314999969424
MR_227314_1,[C:1]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])([C:6](/[C:2](=[N:5]/[H:13])[H:11])([O:8][H:9])[H:14])([O:7][H:12])[H:10]>>[C:1]([C:6]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])([N:5]([H:12])[H:13])[H:11])([O:8][H:9])[H:14])(=[O:7])[H:10],58.99817750003436
MR_334718_1,[C:1]12(/[C:2]([N:3]([H:9])[H:10])=[N:8]\[H:11])[C:4]([H:12])([C:6]([H:14])=[C:5]1[H:13])[O:7]2>>[c:1]1(/[C:2]([N:3]([H:9])[H:10])=[N:8]\[H:11])[c:5]([H:13])[c:6]([H:14])[c:4]([H:12])[o:7]1,41.667882499987314
MR_118380_0,[C:1](\[C:2]([C:3]([N:5]([H:12])[H:13])([O:6][H:8])[O:7][H:10])([H:14])[H:15])(=[N:4]/[H:11])[H:9]>>[C:1]([C:2]([C:3]([N:5]([H:12])[H:13])=[O:7])([H:14])[H:15])([N:4]([H:10])[H:11])([O:6][H:8])[H:9],22.259307499979712
MR_329033_2,[C:1]([C:3]([H:20])([H:21])[H:22])([N:4]([N:6]([H:10])[H:11])/[C:7](=[C:5]([C:2]([H:17])([H:18])[H:19])\[C:8](=[N:9]\[H:12])[H:16])[H:13])([H:14])[H:15]>>[C:1]([C:3]([H:20])([H:21])[H:22])([C:5]([C:2]([H:17])([H:18])[H:19])(/[C:7](=[N:4]/[N:6]([H:10])[H:11])[H:13])/[C:8](=[N:9]/[H:12])[H:16])([H:14])[H:15],65.48276249999887
MR_503979_2,[C:1](=[C:3]([N:4]([H:9])[H:10])[C:6]([N:5]([H:11])[H:12])(/[C:7](=[N:8]/[C:2]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:6](\[N:5]([H:11])[H:12])[H:15])(/[C:7](=[N:8]/[C:2]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14],71.77282249999081
MR_395758_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([O:6][H:10])=[O:8])([C:4]([O:7][H:11])=[O:9])[N:5]([H:12])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](\[O:6][H:10])[O:8][C:4]([O:7][H:11])=[O:9])[N:5]([H:12])[H:13],46.82907000004718
MR_144186_0,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]1([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])[N:6]([H:8])[H:9]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]([N:6]([H:8])[H:9])=[C:4]([C:3]([H:14])([H:15])[H:16])[O:7]1,47.80734250003846
MR_204063_2,[C:1]1([C:2]([O:6][H:8])([H:9])[H:10])([O:5][H:7])[O:3][O:4]1>>[C:1](=[C:2](\[O:6][H:8])[H:9])(\[O:3][O:4][H:10])[O:5][H:7],40.38840999997177
MR_285165_1,[C:1](/[C:5]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])=[N:8]/[H:13])([N:6]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1](\[C:5]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([O:7][H:9])[N:8]([H:11])[H:13])(=[N:6]/[H:12])[H:10],32.45241750003345
